US07074831B2
5-Benzyl-2-propionylamino-benzoic Acid
Methyl 5-benzylanthranilate (300 mg; 1.24 mmols) was dissolved in 7 mL of chloroform and propionyl chloride (344 mg; 3.72 mmols) was added and the reaction mixture was left at room temperature for 18 hours. Aqueous saturated sodium bicarbonate (5 mL) was added to the reaction mixture whereafter the organic phase was separated, dried over magnesium sulphate, filtered and evaporated to dryness. The resulting yellow oil was dissolved in 5 mL of methanol and aqueous sodium hydroxide (1M, 5 mL) was added. The reaction mixture was then heated to 60° C. for two hours. After cooling to room-temperature the reaction mixture was acidified with 20 mL of hydrochloric acid (1M). The white precipitate was filtered with suction, washed twice with water and dried under vacuum yielding the title compound quantitatively. 1H NMR (DMSO-d6) δ 1.09 (t, 3H, J=7.4, —CH3), 2.37 (q, 2H, J=7.5, —CH2—CH3), 3.92 (s, 2H, —CH2-Ph), 7.13–7.45 (m, 5H, -Ph), 7.44 (d, 1H, J=8.6, H4), 7.79 (s, 1H, H6), 8.39 (d, 1H, J=8.5, H3), 11.01 (s, 1H, >NH), 13.54 (bs, 1H, —COOH).

reactant | Methyl 5-benzylanthranilate | 1.24 mmols, 300 mg | C(C1=CC=CC=C1)C1=CC=C(C(C(=O)OC)=C1)N | C15H15NO2
reactant | propionyl chloride | 3.72 mmols, 344 mg | C(CC)(=O)Cl | C3H5ClO
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | chloroform | 7 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Benzyl-2-propionylamino-benzoic Acid | C(C1=CC=CC=C1)C=1C=CC(=C(C(=O)O)C1)NC(CC)=O | C17H17NO3
